US07910592B2
A mixture of 6-aminoindane-5-carbonitrile (48.5 mg, 0.307 mmol), isoamyl nitrite (82 μL, 0.614 mmol) and iodide (85.7 mg, 0.338 mmol) in dry CHCl3 (2 mL) was stirred at room temperature for 0.5 h. The mixture was then heated at 80° C. under N2 for 2 h. The reaction mixture was quenched with saturated Na2S2O3 and partitioned between CH2Cl2 and water. The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (Si, 1% EtOAc in hexanes) to afford 6-iodoindane-5-carbonitrile. LCMS calc.=270.0; found=270.0 (M+1)+. 1H NMR (500 MHz, CDCl3) δ 7.78 (s, 1H), 7.48 (s, 1H), 2.96 (t, J=7.5 Hz, 2H), 2.92 (t, J=7.5 Hz, 2H), 2.16-2.10 (m, 2H).

reactant | 6-aminoindane-5-carbonitrile | 0.307 mmol, 48.5 mg | NC1=C(C=C2CCCC2=C1)C#N | C10H10N2
reactant | isoamyl nitrite | 0.614 mmol, 82 μL | N(=O)OCCC(C)C | C5H11NO2
reactant | iodide | 0.338 mmol, 85.7 mg | [I-]
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-iodoindane-5-carbonitrile | IC1=C(C=C2CCCC2=C1)C#N | C10H8IN
